US06924290B2
4-[(2-Fluoro-4-nitrophenyl)sulphanyl]pyridine
21 g (188.9 mmol) of 4-mercaptopyridine, 30.05 g (188.9 mmol) of 3,4-difluoro-nitrobenzene and 60.05 g (434.5 mmol) of potassium carbonate are dissolved in dimethylformamide, and the mixture is stirred at 40° C. for 3 hours. The reaction solution is then diluted with 500 mL of ethyl acetate and 300 mL of water. The aqueous phase is extracted five times with in each case 100 mL of ethyl acetate. The combined organic phases are washed with 200 mL of saturated sodium chloride solution, dried over sodium sulphate and concentrated under reduced pressure using a rotary evaporator. The residue is purified by MPLC (mobile phase: ethyl acetate:cyclohexane 1:1).

reactant | 4-mercaptopyridine | 188.9 mmol, 21 g | SC1=CC=NC=C1 | C5H5NS
reactant | 3,4-difluoro-nitrobenzene | 188.9 mmol, 30.05 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | potassium carbonate | 434.5 mmol, 60.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 300 mL | O | H2O
product | 4-[(2-Fluoro-4-nitrophenyl)sulphanyl]pyridine | FC1=C(C=CC(=C1)[N+](=O)[O-])SC1=CC=NC=C1 | C11H7FN2O2S
